US08802673B2
To a stirred solution of tert-butyl (RS)-2-(6-bromo-5-methylpyridin-3-yl)morpholine-4-carboxylate (1.7 g) and benzophenone imine (1.2 ml) in toluene (20 ml) was added sodium tert-butoxide (732 mg). The reaction mixture was purged with argon for 10 min. (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (296 mg) and tris(dibenzylideneacetone)dipalladium(0) (131 mg) were added and the reaction mixture was heated at 100° C. overnight. The reaction mixture was then cooled to room temperature, poured into water and extracted twice with EtOAc. The organic layers were dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 75% EtOAc in hexanes) to afford tert-butyl (RS)-2-(6-(diphenylmethyleneamino)-5-methylpyridin-3-yl)morpholine-4-carboxylate (1.01 g, 46%) as a yellow foam. MS (ISP): 458.3 ([M+H]+).

reactant | tert-butyl (RS)-2-(6-bromo-5-methylpyridin-3-yl)morpholine-4-carboxylate | 1.7 g | BrC1=C(C=C(C=N1)C1CN(CCO1)C(=O)OC(C)(C)C)C | C15H21BrN2O3
reactant | benzophenone imine | 1.2 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 732 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (RS)-2-(6-(diphenylmethyleneamino)-5-methylpyridin-3-yl)morpholine-4-carboxylate | 1.01 g, 46% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=C(C=C(C=N1)C1CN(CCO1)C(=O)OC(C)(C)C)C | C28H31N3O3
